Name:  ___                       Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Pain in abdomen and chest
 
Major Surgical or Invasive Procedure:
None.

 
History of Present Illness:
This is a ___ woman with a history of atrial 
fibrillation on warfarin who presents as a transfer from 
___ for trauma. She was a restrained passenger in 
a motor vehicle that was T-boned at high speeds earlier
today. She was able to self extricate from the vehicle. She was 
taken to ___ where a CT scan of her chest revealed 
a possible retroperitoneal hematoma with a question of active 
extravasation. Her INR was 3.7 for which she received vitamin K. 
She has been hemodynamically stable.
 
Past Medical History:
HTN, NIDDM, afib
 
Family History:
Non contributory 
 
Physical Exam:
Admission Physical Examination: General: Alert and Well 
Developed
HEENT: Normal ENT inspection.    Eyes: Lids
Normal; PERRL; EOMI.    Oropharynx / Throat:
Normal Pharynx. Neck: No Lymphadenopathy and Supple
Respiratory: No Resp Distress, Chest non-tender and Normal
Breath Sounds Cardio-Vascular: No murmur, No rub and RRR
Abdomen: Normal Bowel Sounds, No Organomegaly, Non-tender
and Soft Back: Normal Gait, Normal Motor, No CVA tenderness,
Non-tender and Normal Sensory Extremity: No edema and Normal
Equal pulses Neurological: Alert, Oriented X3 and No Gross
Weakness Skin: No rash and No Petechiae Psychological:
Mood/Affect Normal

Discharge Physical Exam:
VS: 
HEENT: PERRL, EOMI
CV: RRR
PULM: Clear bilaterally. ecchymosis across chest, left shoulder, 
right breast
ABD: Soft, nondistended,  tender R flank. active bowel sounds.
EXT: Warm and dry. 2+ ___ pulses. 
NEURO: A&Ox3. Follows commands and moves all extremities equal 
and strong. Speech is clear and fluent. 
 
Pertinent Results:
___ 06:05AM BLOOD WBC-7.5 RBC-4.52 Hgb-12.7 Hct-38.2 MCV-85 
MCH-28.1 MCHC-33.2 RDW-14.1 RDWSD-43.1 Plt ___
___ 02:08PM BLOOD WBC-9.5 RBC-4.89 Hgb-13.8 Hct-41.3 MCV-85 
MCH-28.2 MCHC-33.4 RDW-14.0 RDWSD-43.4 Plt ___
___ 09:34AM BLOOD ___ PTT-26.5 ___
___ 02:08PM BLOOD ___ PTT-39.7* ___

___ CT C-Spine:
No acute fracture or traumatic malalignment. 

___ CT Head:
No fracture or acute intracranial process noted. 
Chronic infarct in the left PCA territory with encephalomalacia 
involving the temporal and occipital lobes 

___ CTA Chest/A/P
1. Large right sided retroperitoneal and inferior posterior 
mediastinal 
hematoma with a few small foci of possible venous contrast blush 
which may be concerning for venous extravasation in the setting 
of trauma and 
anticoagulation.  Potential sources of bleed include IVC injury, 
or 
tributaries, and less likely lumbar or inferior phrenic artery. 
2. Bibasilar irregular densities are probably atelectatic, 
however, sequela of aspiration can not be excluded 
3. Incompletely characterized 1.2 cm hypodensity in the right 
hepatic lobe.  ___ reflect a hemangioma. 
4. Large fibroid uterus.  IUD in a thickened endometrium. 
Outpatient gyn 
consultation. 
5. Asymmetric skin thickening of the right breast with 2 cm 
retroareolar 
density.  Please correlate with physical exam for signs of 
hematoma or 
cutaneous trauma. 
6. 1.7 cm nodular density in the left breast.  Recommend 
follow-up with 
dedicated breast clinic, including correlation with bilateral 
mammography and evaluation in dedicated breast clinic. 

 
Brief Hospital Course:
Ms. ___ is a ___ yo F history of afib on coumadin who was 
transferred from outside hospital after a motor vehicle accident 
sustaining a retroperitoneal hematoma and inferior posterior 
mediastinal hematoma. She received vitamin K and Kcentra for INR 
3.7. Outside hospital images were reviewed and CTA 
abdomen/pelvis, CT head, and CT neck were done and showed 
possible venous blush in retroperitoneal hematoma. The patient 
was admitted to the Trauma service for hemodynamic monitoring 
and pain control. On HD2, tertiary survey showed no further 
injuries. Pain was controlled with oral acetaminophen and 
oxycodone. She remained hemodynamically stable. Good pulmonary 
toilet, early ambulation and incentive spirometry were 
encouraged throughout hospitalization. The patient was initially 
give a clear liquid diet which she tolerated well without 
difficulty. On HD2, diet was advanced to regular with continued 
good tolerability. She voided without difficulty. The patient's 
blood counts were closely watched for signs of bleeding, of 
which stabilized.

At the time of discharge, the patient was doing well, afebrile 
and hemodynamically stable. The patient was tolerating a diet, 
ambulating, voiding without assistance, and pain was well 
controlled. The patient received discharge teaching and 
follow-up instructions with understanding verbalized and 
agreement with the discharge plan.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Metoprolol Tartrate 100 mg PO BID 
2. Warfarin 0.5 mg PO DAILY16 
3. Diltiazem Extended-Release 360 mg PO DAILY 
4. Hydrochlorothiazide 25 mg PO DAILY 
5. Atorvastatin 80 mg PO QPM 
6. Aspirin 81 mg PO DAILY 
7. Multivitamins 1 TAB PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild/Fever  
2.  Senna 8.6 mg PO BID  
3.  Aspirin 81 mg PO DAILY  
4.  Atorvastatin 80 mg PO QPM  
5.  Diltiazem Extended-Release 360 mg PO DAILY  
6.  Hydrochlorothiazide 25 mg PO DAILY  
7.  Metoprolol Tartrate 100 mg PO BID  
8.  Multivitamins 1 TAB PO DAILY  
9. HELD- Warfarin 0.5 mg PO DAILY16  This medication was held. 
Do not restart Warfarin until ___.

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
traumatic retroperitoneal bleed
atrial fibrillation on coumadin 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the Acute Care Surgery Service on ___ 
after a motor vehicle crash. You had a CT scan of your head neck 
and spine that showed bleeding in the space behind your 
abdominal cavity and no other injuries. Your blood counts were 
closely watched and remained stable. You can continue to take 
your coumadin/warfarin medication as prescribed on ___ 
___. You should continue to have your INR level monitored 
per routine. 

You are now doing better, tolerating a regular diet, and ready 
to be discharged home to continue your recovery.

Please note the following discharge instructions:

Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:
*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*Your pain in not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.

Please resume all regular home medications, unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.

Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids. 
 
Followup Instructions:
___